* C:\info\tmp\readout-system\analogboard\simulations\LTspice\SiPMT_test_mppc33_ad81322_sa_dualps.asc
Vbias N001 0 {Vk}
R1 N009 N012 {Rbias}
Vtrigger N007 0 PULSE(0V 1V 10n 100p 100p 100f 2.5u)
R2 N001 N004 {Rbias}
Cifp N004 N005 {Cif}
Cifm N009 N010 {Cif}
Rgp N002 N005 {Rg}
Rgm N011 N010 {Rg}
Vamp_vcc Vcc 0 4.6V
Rfm N002 Vout+ {Rf}
Cfm Vout+ fbm {Cf}
Rfp N011 Vout- {Rf}
Cfp Vout- fbp {Cf}
Cof2m adc2- 0 {Cof2}
Vtrim N013 0 {Vt}
XU2 N009 N006 N007 SiPMT Cd=15.4f Cq=3.4f Cg=59p Rd=1k Rq=268k Nf=1600 Np=14000 Ith=30u Vbd={Vbd}
Cparap inp 0 {Cpara}
Cparap1 inm 0 {Cpara}
XU3 inp inm Vcc Vee Vout+ Vout- vcom ad8132
Volp1 fbm inp 0V AC 0.5V
Volm1 inm fbp 0V AC 0.5V
Vamp_vee Vee 0 -3V
V1 N004 N006 0 AC 10m 9
Cof1 adc2+ 0 {Cof2}
R8 fbm N002 {Rb}
R9 fbp N011 {Rb}
C7 N012 0 100n
R10 N012 N013 10K
C2 N002 0 {Cpf}
C3 N011 0 {Cpf}
R3 N003 Vout+ {Rg1}
R5 N008 Vout- {Rg1}
C1 N008 Vout- {Cfb}
C4 N003 Vout+ {Cfb}
R4 N008 Vcc 830
R14 adc2- N003 {Rad}
R15 adc2+ N008 {Rad}
R13 N003 0 10K
R16 VEE N003 920
Vcom vcom 0 0.9V
.include SiPMT_model2.cir
.PARAM Vk = 74
.PARAM Vbd = 67.3
* Parameters for MPPC-S10362-33-25c
* Amplifier
* ADC
* SiPMT
* N.B. Trigger pulse represents
* incoming photons. Does not
* exist as physical circuit element
.PARAM Vt = 0.0
.tran 400ns
* Vfs = single-ended full-scale range. \nN.B. Differential voltage = 2 * single-ended
.PARAM Rg1=200
.PARAM Roffp=1000
.PARAM Cfb=.10p
.PARAM Cof2=1p
.PARAM Rad=100
;ac dec 10 1 100e6
.PARAM Cpf =1p
.PARAM Rbias=100K
.PARAM Rg = 24
.PARAM Rb = 33
.PARAM Rf =1300
.PARAM Cf = 47p
.PARAM Cpara = 5fF
.PARAM Cif = 4.7nF
.lib ./ad8132.cir
.lib SiPMT_model2.cir
.backanno
.end
